US05393921
Zhang, Feng and Shi, "The Preparation of Aminoxyacetic Acid", Chem. World, Vol. 9, No. 30, pp. 397-399, 1989 discloses condensing acetone oxime and chloroacetic acid in the presence of a solid acid or halide of a quaternary ammonium salt catalyst, organic solvent and sodium hydroxide at room temperature to form acetone oxime-acetic acid. Chloroacetic acid is added in excess relative to the acetone oxime. Benzene is used as the organic solvent. An approximately 6% aqueous solution of sodium hydroxide is used in an amount equimolar to the combined amount of acetone oxime and chloroacetic acid. After completion of the reaction, the aqueous solution is saturated with sodium chloride prior to exhaustive extractions with ethyl ether. Acetone oxime-acetic acid is obtained as a crude yellow oil which requires purification by vacuum distillation prior to hydrolysis to aminooxyacetic acid hemihydrochloride.

reactant | Aminoxyacetic Acid | O(N)CC(=O)O | C2H5NO3
reactant | acetone oxime | CC(C)=NO | C3H7NO
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
product | acetone oxime acetic acid | CC(C)=NO.C(C)(=O)O | InChI=1S/C3H7NO.C2H4O2/c1-3(2)4-5;1-2(3)4/h5H,1-2H3;1H3,(H,3,4)
